US07816379B2
Preparation of (S)-3-(4-(2-([1,2,3]triazol-2-yl)pyridin-5-yl)-3-fluorophenyl)-2-oxo-5-oxazolidinylmethyl acetamide (compound 25)
The same procedure as in Example 1 was conducted, except for adding 2-([1,2,3]triazol-2-yl)-5-bromopyridine and using (S)-3-(4-trimethylstannyl-3-fluorophenyl)-2-oxo-5-oxazolidinylmethyl acetamide as a starting material, to obtain the title compound.

reactant | 2-([1,2,3]triazol-2-yl)-5-bromopyridine | N=1N(N=CC1)C1=NC=C(C=C1)Br | C7H5BrN4
reactant | (S)-3-(4-trimethylstannyl-3-fluorophenyl)-2-oxo-5-oxazolidinylmethyl acetamide | C[Sn](C1=C(C=C(C=C1)N1CO[C@H](C1)CC(C(=O)N)=O)F)(C)C
product | (S)-3-(4-(2-([1,2,3]triazol-2-yl)pyridin-5-yl)-3-fluorophenyl)-2-oxo-5-oxazolidinylmethyl acetamide | N=1N(N=CC1)C1=NC=C(C=C1)C1=C(C=C(C=C1)N1CO[C@H](C1)CC(C(=O)N)=O)F | C19H17FN6O3
